US07842803B2
a) {5-[(dimethylamino)methyl]-2-furyl}boronic acid
To a solution of (5-formyl-2-furyl)boronic acid (50 mg, 0.36 mmol) in DME (1.0 mL) was added a 2.0M solution of dimethylamine in THF (0.53 mL, 1.0 mmol). The reaction mixture stirred for 5 minutes before resin bound MP-BH(OAc)3 (2.2 mmol/g, 0.33 g, 0.714 mmol) was added. The reaction mixture was stirred at room temperature for five hours and an additional 1 equivalent of dimethylamine in THF was added and stirring continued overnight. The reaction mixture was filtered through a plug of glass wool and the resin was washed with DME. The THF/DME filtrate solution containing the desired compound was used immediately in subsequent reactions.

reactant | (5-formyl-2-furyl)boronic acid | 0.36 mmol, 50 mg | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
reactant | dimethylamine | CNC | C2H7N
reactant | dimethylamine | 1 equivalent | CNC | C2H7N
solvent | DME | 1.0 mL | COCCOC | C4H10O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.0 mmol, 0.53 mL | C1CCOC1 | C4H8O
product | {5-[(dimethylamino)methyl]-2-furyl}boronic acid | CN(C)CC1=CC=C(O1)B(O)O | C7H12BNO3
